US07259178B2
A solution of 100 mg (0.29 mmol) of 1,1,1,3,3,3-hexafluoro-2-[4-(2,2,2-trifluoro-ethylamino)-phenyl]-propan-2-ol in 0.5 mL tBuOH was treated with 0.1 mL (0.84 mmol) of benzylbromide and stirred at 100° C. for 10 hours in a sealed tube. Evaporation of the solvent and column chromatography on silicagel with n-heptane/EtOAc 8:1 yielded 10 mg (8%) of 2-{4-[benzyl-(2,2,2-trifluoro-ethyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol, blue oil, MS: 432 (MH+).

reactant | 1,1,1,3,3,3-hexafluoro-2-[4-(2,2,2-trifluoro-ethylamino)-phenyl]-propan-2-ol | 0.29 mmol, 100 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)NCC(F)(F)F)(F)F | C11H8F9NO
reactant | benzylbromide | 0.84 mmol, 0.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tBuOH | 0.5 mL | CC(C)(C)O | C4H10O
product | 2-{4-[benzyl-(2,2,2-trifluoro-ethyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol | 10 mg, 8% | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CC(F)(F)F | C18H14F9NO
